US06573391B1
Ethyl (RS)-2-allyloxy-propionate (x=1, Y=OEt, R1=Me, R2=H):
23.6 g (0.2 mol) of ethyl (S)-(−)-lactate, dissolved in 100 ml of THF, are added to a suspension of 8.0 g (0.2 mol) of NaH in 150 ml THF. When the addition is complete, 36.3 g (0.3 mol) of allyl bromide, dissolved in 10 ml of THF, are added dropwise. Some KI is then added and the mixture is refluxed for 16 h. The mixture is then cooled and the reaction is quenched with 100 ml of 2N HCl. The aqueous phase is extracted twice more with Et2O before the combined organic phases are dried over Na2SO4. The mixture is then filtered and the filtrate is evaporated to dryness on a rotary evaporator, giving 31.7 g of crude product (GC purity 89.0%), which is used in the next reactions without further purification.

reactant | ethyl (S)-(−)-lactate | 0.2 mol, 23.6 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | NaH | 0.2 mol, 8.0 g | [H-].[Na+]
reactant | allyl bromide | 0.3 mol, 36.3 g | C(C=C)Br | C3H5Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl (RS)-2-allyloxy-propionate | 31.7 g | C(C=C)OC(C(=O)OCC)C | C8H14O3
